US04107308
8-Chloro-6-phenyl-4-methylthio-imidazo[1,5-d]-as-triazine
The procedure of Example 29 is repeated substituting an equimolar amount of 8-chloro-6-phenyl-imidazo[1,5-d]-as-triazine-4(3H)-thione for the imidazo[1,5-d]-as-triazine-4(3H)-thione employed in that example. There is thus obtained the title compound.

reactant | 8-chloro-6-phenyl-imidazo[1,5-d]-as-triazine-4(3H)-thione | ClC=1N=C(N2C(NN=CC21)=S)C2=CC=CC=C2 | C11H7ClN4S
reactant | imidazo[1,5-d]-as-triazine-4(3H)-thione | C=1C=2N(C(NN1)=S)C=NC2 | C5H4N4S
product | 8-Chloro-6-phenyl-4-methylthio-imidazo[1,5-d]-as-triazine | ClC=1N=C(N2C(=NN=CC21)SC)C2=CC=CC=C2 | C12H9ClN4S
